US04495190
6-Chloroguanine (0.75 g) and sodium hydride (60% in oil, 0.18 g) in dry dimethylformamide were stirred at room temperature for one hour. DL-erythro-2,2-Dimethyl-4-p-toluenesulfonyloxymethyl-5-hydroxymethyl-1,3-dioxolane [0.70 g, prepared according to A. Holy, Coll. Czech. Chem. Commun Vol 44, pages 593-612 (1979)] was added and the reaction mixture was heated at 100° C. for 17 hours, after which it was filtered through a Celite pad, and the solution was evaporated in vacuo. The residue was refluxed with acetic acid (25 ml) for 2 hours. The solvent was evaporated and the residue was coevaporated with water (3×5 ml). The residue was dissolved in a small volume of 1N hydrochloric acid, and added to a column of Dowex 50×8 (H+, 70 ml)which was eluted with water (1 liter) followed by aqueous ammonia (diluted 1/10). The elution was monitored by a UV detector. The appropriate fractions were evaporated in vacuo, and the residue was coevaporated with water several times, finally dissolved in boiling water (230 ml) and filtered to give 9-(DL-erythro-2,3,4-trihydroxybutyl) guanine (0.20 g). NMR (DMSO-d6)δ: 7,8 (s,8C-H); 6.4 (NH2); 4.22 (N-CH2).

reactant | 6-Chloroguanine | 0.75 g | C=1NC2=C(N1)C(=NC(=N2)N)Cl | C5H4ClN5
reactant | sodium hydride | 0.18 g | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | guanine | 0.20 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
